US04058568
Preparation of 1,2,3,4,9,9-hexachloro-1,4,4a,8a-tetrahydro-1,4-methanonaphthalene-5,8-dione
A mixtures of 54.6 g. (0.2 mole) of hexachlorocyclopentadiene, 21.6 g. (0.2 mole) of p-benzoquinone, and 10 ml. of toluene were placed in a 125 ml. round bottom flask and heated for three hours so that the toluene refluexed gently. At the end of this period the reaction mixture suddenly solidified completely, indicating completion of the reaction. The crude product was bright yellow. The damp material was transferred to a Buchner funnel, rinsed with absolute ethanol, dried on the funnel, and crystallized from ehtnaol. 49 g. of bright yellow dense crystals were obtained, m.p. 189°-193° C (reported 188° C). The yield was 64%.

reactant | hexachlorocyclopentadiene | 0.2 mole | ClC1(C(=C(C(=C1Cl)Cl)Cl)Cl)Cl | C5Cl6
reactant | p-benzoquinone | 0.2 mole | C1(C=CC(C=C1)=O)=O | C6H4O2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 1,2,3,4,9,9-hexachloro-1,4,4a,8a-tetrahydro-1,4-methanonaphthalene-5,8-dione | yield was 64% | ClC12C(=C(C(C3C(C=CC(C13)=O)=O)(C2(Cl)Cl)Cl)Cl)Cl | C11H4Cl6O2
